US06713476B2
(a) ({[(3-methylbutyl)amino]methyl}cyclopentyl)methan-1-ol
To a solution of methyl 1-[N-(3-methylbutyl)-carbamoyl]-cyclopentanecarboxylate (900 mg, 3.7 mmol) in THF at rt was added BH3/THF complex ) 7.4 mL, 7.4 mmol) and stirred at 75° C. for 5 hours. To this reaction mixture was added 6N HCl (10 mL) and the mixture was further stirred for 30 min before the solution was neutralized by 1N NaOH. The solution was diluted with water and extracted with EtOAc. The combined extracts were dried over magnesium sulfate, and concentrated to a crude oil (700 mg, 95%). MS [M+H]+200.

reactant | methyl 1-[N-(3-methylbutyl)-carbamoyl]-cyclopentanecarboxylate | 3.7 mmol, 900 mg | CC(CCNC(=O)C1(CCCC1)C(=O)OC)C | C13H23NO3
reactant | HCl | 6N, 10 mL | Cl | ClH
reactant | NaOH | 1N | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | ({[(3-methylbutyl)amino]methyl}cyclopentyl)methan-1-ol | CC(CCNCC1(CCCC1)CO)C | C12H25NO
